US05424280
Preparation of Methyl {o-{5-[(2-chloro-α,α,α-trifluoro-p-tolyl)oxy]-2-nitrophenoxy}phenoxy}acetate
A mixture of 2-chloro-α,α,α-trifluoro-p-tolyl 3-fluoro-4-nitrophenyl ether (1.0 g, 3.0 mmol), methyl (o-hydroxyphenoxy)acetate (0.81 g, 4.5 mmol) and potassium carbonate (0.62 g, 4.5 mmol) in N,N-dimethylformamide is heated at 50° C. for 18 hours, cooled to room temperature, poured into water and extracted with ether. The organic extract is washed with brine, dried over anhydrous sodium sulfate and concentrated in vacuo to obtain a white oil. Column chromatography of the oil using silica gel and a 15% ethyl acetate in hexanes solution gives the title product as a clear liquid (0.3 g) which is identified by 1HNMR and 13CNMR spectral analyses.

reactant | 2-chloro-α,α,α-trifluoro-p-tolyl 3-fluoro-4-nitrophenyl ether | 3.0 mmol, 1.0 g | FC=1C=C(C=CC1[N+](=O)[O-])OC1=CC(=C(C=C1)C(F)(F)F)Cl | C13H6ClF4NO3
reactant | methyl (o-hydroxyphenoxy)acetate | 4.5 mmol, 0.81 g | OC1=C(OCC(=O)OC)C=CC=C1 | C9H10O4
reactant | potassium carbonate | 4.5 mmol, 0.62 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Methyl {o-{5-[(2-chloro-α,α,α-trifluoro-p-tolyl)oxy]-2-nitrophenoxy}phenoxy}acetate | 0.3 g | ClC1=C(C=CC(=C1)OC=1C=CC(=C(OC2=C(OCC(=O)OC)C=CC=C2)C1)[N+](=O)[O-])C(F)(F)F | C22H15ClF3NO7
